** sch_path: /home/ishi-kai/sram/sram_dense_1x1
.subckt sram_dense_1x1 Vdd BLB BL WL Q QB Vss
*.PININFO Vdd:B BLB:B BL:B WL:I Q:O QB:O Vss:B
MXM1 Q QB Vss Vss NMOS w=3.4u l=1u
MXM2 Q QB Vdd Vdd PMOS w=3.4u l=1u
MXM3 QB Q Vss Vss NMOS w=3.4u l=1u
MXM4 QB Q Vdd Vdd PMOS w=3.4u l=1u
MXM7 Q WL BL Vss NMOS w=3.4u l=1u
MXM6 QB WL BLB Vss NMOS w=3.4u l=1u
.ends
